US08431607B2
To a stirred solution of 5-(4-chlorophenoxy)pyrazin-2-amine (149 mg, 0.67 mmol) in dry CH2Cl2 (1.5 mL) at room temperature, under argon, is added trimethylaluminum (0.335 mL of a 2.0 N solution in toluene, 0.67 mmol) dropwise. The resulting mixture is stirred for 15 min, then (S)-dihydro-5-(3-methoxyphenyl)furan-2(3H)-one (107 mg, 0.555 mmol) in CH2Cl2 (1.5 mL) is added slowly and stirring is continued at ambient temperature for 3 days. The reaction is quenched carefully with 10% aqueous citric acid (0.5 mL) at 0° C. The mixture is then partitioned between saturated aqueous NaHCO3 (10 mL) and CH2Cl2 (10 mL). The aqueous layer is extracted further with CH2Cl2 (3×10 mL). The combined organic extracts are dried over Na2SO4, filtered, and concentrated in vacuo. The residue is then purified on silica gel (0-75% ethyl acetate in hexane) to give (S)—N-[5-(4-chlorophenoxy)pyrazin-2-yl]-4-hydroxy-4-(3-methoxyphenyl)butanamide (230 mg, 100%) as a white solid.

reactant | 5-(4-chlorophenoxy)pyrazin-2-amine | 0.67 mmol, 149 mg | ClC1=CC=C(OC=2N=CC(=NC2)N)C=C1 | C10H8ClN3O
reactant | trimethylaluminum | C[Al](C)C
reactant | (S)-dihydro-5-(3-methoxyphenyl)furan-2(3H)-one | 0.555 mmol, 107 mg | COC=1C=C(C=CC1)[C@@H]1CCC(O1)=O | C11H12O3
solvent | CH2Cl2 | 1.5 mL | C(Cl)Cl | CH2Cl2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | CH2Cl2 | 1.5 mL | C(Cl)Cl | CH2Cl2
product | (S)—N-[5-(4-chlorophenoxy)pyrazin-2-yl]-4-hydroxy-4-(3-methoxyphenyl)butanamide | 230 mg, 100% | ClC1=CC=C(OC=2N=CC(=NC2)NC(CC[C@@H](C2=CC(=CC=C2)OC)O)=O)C=C1 | C21H20ClN3O4
